US05223528
a) Synthesis of methyl hydrogen phenylmalonate (new method)
Phenylmalonic acid (13.5 g, 0.07 mol) in dry ether (40 mL) was treated with thionyl chloride (8.92 g, 5.4 mL, 0.071 mol) and one drop of N,N-dimethylformamide. The mixture was heated at 40°-50° C. for 3 hours. The clear solution was evaporated under reduced pressure to remove any residual thionyl chloride. The oily residue was redissolved in dry ether (40 mL) and the solution was treated with methyl alcohol (0.075 mol, 3 mL) and refluxed for 2 hours. The reaction mixture was cooled to room temperature and washed with water. The organic layer was extracted with saturated solution of sodium bicarbonate until alkaline. The combined extracts were washed with ether and the aqueous layer acidified with 5N HCl to pH 1. The precipitated oil was extracted with CH2Cl2 (50 mL×3). The combined extracts were washed with water (50 mL×4) and dried over anhydrous MgSO4. The oily product crystallized on standing.

reactant | Phenylmalonic acid | 0.07 mol, 13.5 g | C1(=CC=CC=C1)C(C(=O)O)C(=O)O | C9H8O4
reactant | thionyl chloride | 0.071 mol, 5.4 mL, 8.92 g | S(=O)(Cl)Cl | Cl2OS
reactant | methyl alcohol | 0.075 mol, 3 mL | CO | CH4O
solvent | ether | 40 mL | CCOCC | C4H10O
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | methyl hydrogen phenylmalonate | C1(=CC=CC=C1)C(C(=O)OC)C(=O)O | C10H10O4
